### PR TITLE
Add Erdős Problem 1197 (Haight's covering problem for dilates), link the formal disproof

### LINKED ISSUE #6213: Erdős Problem 1197
### What is the Erdős problem?

https://www.erdosproblems.com/1197

Let $E\subset (0,\infty)$ be a set of positive measure. Is it true that, for almost all $x>0$, for all sufficiently large integers $n$ there exists an integer $r\geq 1$ such that $nx\in r\cdot E$?

Status: disproved (Lean). A counterexample (variant of Buczolich–Mauldin) was given by ebarschkis; a formal proof exists in plby/lean-proofs (`Erdos1197.not_erdos_1197`, Enrique Barschkis, GPT Pro and Aristotle).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11
* ams-28

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6213.

### What changed
Adds `FormalConjectures/ErdosProblems/1197.lean` with `erdos_1197` (`research solved`, `answer(False)`): for every measurable `E ⊆ (0, ∞)` of positive measure, almost every `x > 0` has `n x ∈ r • E` for some `r ≥ 1` and all large `n` (Haight's question). Disproved by ebarschkis; linked to plby/lean-proofs `Erdos1197.not_erdos_1197` (Enrique Barschkis, GPT Pro and Aristotle; 29 Mathlib-only files).

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos1197.not_erdos_1197` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (plby exhibits `E` such that every `x ∈ [16/25, 2/3]` has infinitely many bad `n`; this interval has positive measure, so the a.e. statement fails):

<details>
<summary>Bridge</summary>

```lean
open Filter MeasureTheory Set
open scoped Pointwise

theorem erdos_1197_bridge : type_of% Erdos1197.erdos_1197 := by
  show False ↔ _
  simp only [false_iff]
  intro h
  obtain ⟨E, hE, hEpos, hvol, hbad⟩ := Erdos1197Plby.not_erdos_1197
  have hae := h E hE hEpos hvol
  rw [ae_restrict_iff' measurableSet_Ioi] at hae
  -- the bad set `I_inf = [16/25, 2/3]` has positive measure, so it meets the good set
  have hI : volume Erdos1197Plby.I_inf ≠ 0 := by
    simp [Erdos1197Plby.I_inf, Real.volume_Icc]; norm_num
  have hIae : ∀ᵐ x ∂(volume.restrict Erdos1197Plby.I_inf), x ∈ Erdos1197Plby.I_inf :=
    ae_restrict_mem (by simp [Erdos1197Plby.I_inf])
  have hae' : ∀ᵐ x ∂(volume.restrict Erdos1197Plby.I_inf), x ∈ Ioi (0 : ℝ) →
      ∀ᶠ n : ℕ in atTop, ∃ r : ℕ, 1 ≤ r ∧ (n : ℝ) * x ∈ (r : ℝ) • E :=
    ae_restrict_of_ae hae
  have : (ae (volume.restrict Erdos1197Plby.I_inf)).NeBot := by
    rw [ae_neBot]
    intro h0
    rw [Measure.restrict_eq_zero] at h0
    exact hI h0
  obtain ⟨x, hxI, hxgood⟩ := (hIae.and hae').exists
  have hxpos : x ∈ Ioi (0 : ℝ) := by
    simp only [Erdos1197Plby.I_inf, mem_Icc] at hxI
    simp only [mem_Ioi]; linarith
  have hgood := hxgood hxpos
  have hinf := hbad x hxI
  rw [eventually_atTop] at hgood
  obtain ⟨N, hN⟩ := hgood
  obtain ⟨n, hn, hnN⟩ := hinf.exists_gt N
  obtain ⟨hn0, hbadn⟩ := hn
  obtain ⟨r, hr, hmem⟩ := hN n hnN.le
  rw [Set.mem_smul_set] at hmem
  obtain ⟨e, he, hre⟩ := hmem
  refine hbadn r hr ⟨e, he, ?_⟩
  have hn' : (n : ℝ) ≠ 0 := by exact_mod_cast hn0.ne'
  field_simp
  simp only [smul_eq_mul] at hre
  linarith
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«1197»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1197.lean [hunk 1]
```diff
@@ -0,0 +1,66 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1197.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
